US04133881
α,α-Diphenyl-α-(1-isopropyl-3-azetidinyl)acetamide
To 80 ml. of concentrated sulfuric acid preheated to 70° C. was added 25 g. (0.86 mole) of α-(1-isopropyl-3-azetidinyl)-α,α-diphenylacetonitrile at a rate to maintain a temperature of 65°-75° C. The solution was heated at 70° C. for 18 hrs. and poured on ice. The mixture was made basic with 50% sodium hydroxide (while cooling with ice) and extracted with chloroform. The chloroform was dried (sodium sulfate) and concentrated. The residue was crystallized from ethyl acetate-ethanol to give 15.7 g. (59%) of product melting at 181°-184° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | α-(1-isopropyl-3-azetidinyl)-α,α-diphenylacetonitrile | 0.86 mole | C(C)(C)N1CC(C1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2
reactant | sodium hydroxide | [OH-].[Na+]
product | α,α-Diphenyl-α-(1-isopropyl-3-azetidinyl)acetamide | C1(=CC=CC=C1)C(C(=O)N)(C1CN(C1)C(C)C)C1=CC=CC=C1 | C20H24N2O
